US09062050B2
Step 5: N2-(6-fluoroindan-1-yl)-N6-(5-methyl-2H-pyrazol-3-yl)-3-nitropyridine-2,6-diamine
Combine 6-chloro-N-(6-fluoro-2,3-dihydro-1H-inden-1-yl)-3-nitropyridin-2-amine (9.00 g, 29.34 mmol) and 3-amino-5-methylpyrazole (4.56 g, 46.95 mmol) in dimethylsulfoxide (60 mL). Add N,N-diisopropylethylamine (8.18 mL, 46.95 mmol) and heat the reaction under nitrogen at 120° C. for 90 minutes. Pour the reaction into ice water (200 mL) and stir 20 minutes, then filter. Suspend the solid obtained in a mixture of dichloromethane and methanol and stir at 40° C. for 20 minutes. Filter the mixture to give the title compound as a yellow solid (6.03 g, 56%). MS (ES) m/z=369 [M+1].

reactant | 6-chloro-N-(6-fluoro-2,3-dihydro-1H-inden-1-yl)-3-nitropyridin-2-amine | 29.34 mmol, 9.00 g | ClC1=CC=C(C(=N1)NC1CCC2=CC=C(C=C12)F)[N+](=O)[O-] | C14H11ClFN3O2
reactant | 3-amino-5-methylpyrazole | 46.95 mmol, 4.56 g | NC1=NNC(=C1)C | C4H7N3
reactant | N,N-diisopropylethylamine | 46.95 mmol, 8.18 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylsulfoxide | 60 mL | CS(=O)C | C2H6OS
product | N2-(6-fluoroindan-1-yl)-N6-(5-methyl-2H-pyrazol-3-yl)-3-nitropyridine-2,6-diamine | 6.03 g, 56% | FC1=CC=C2CCC(C2=C1)NC1=NC(=CC=C1[N+](=O)[O-])NC=1NN=C(C1)C | C18H17FN6O2
